US07262201B1
3-Benzyl-4,5-dihydro-1H-pyrazol-5-one (174 mg, 1 mmol), (J. Chem. Soc. Perk. Trans 1, 1980, 1618-1621), was added to a suspension of sodium hydride (40 mg, 1 mmol, prewashed with pentane) in DMF (3 ml) under nitrogen. After stirring for 30 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (135 mg, 0.4 mmol) was added and the mixture was heated at 80° C for 1 hour. After cooling, the mixture was diluted with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The precipitate was collected by filtration, washed with water, followed by ethanol, ether and dried under vacuum to give 4-(5-benzylpyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 79%).

reactant | 3-Benzyl-4,5-dihydro-1H-pyrazol-5-one | 1 mmol, 174 mg | C(C1=CC=CC=C1)C1=NNC(C1)=O | C10H10N2O
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.4 mmol, 135 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(5-benzylpyrazol-3-yloxy)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 150 mg, 79% | C(C1=CC=CC=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C26H29N5O4
